US09315507B2
Step 1: 1-(3-Fluoro-4-methoxyphenyl)adamantane
The title compound was prepared from 1-fluoro-2-methoxybenzene (10 mL) and 1-bromoadamantane (3.25 g, 15.25 mmol) according to the step 1 of the example 5, which was given 1-(3-fluoro-4-methoxyphenyl)adamantane (5.05 g, 83.3% yield).

reactant | 1-bromoadamantane | 15.25 mmol, 3.25 g | BrC12CC3CC(CC(C1)C3)C2 | C10H15Br
reactant | 1-fluoro-2-methoxybenzene | 10 mL | FC1=C(C=CC=C1)OC | C7H7FO
product | 1-(3-fluoro-4-methoxyphenyl)adamantane | 5.05 g, 83.3% yield | FC=1C=C(C=CC1OC)C12CC3CC(CC(C1)C3)C2 | C17H21FO
